US08669234B2
A mixture of 2-(6-bromo-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (890 mg, 2.43 mmol), bis(pinacolato)diboron (1.36 g, 5.35 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (99 mg, 0.12 mmol) and potassium acetate (620 mg, 6.32 mmol) in 15 mL dioxane was heated to 95° C. for 4 hour. The reaction mixture was cooled and dissolved in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 80% ethyl acetate/hexane) to give 2-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (588 mg, yield 59%). LCMS-ESI−: calc'd for C32H20BN3O4: 413.32. Found: 414.0 (M+H+).

reactant | 2-(6-bromo-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.43 mmol, 890 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)Br | C16H20BrN3O2
reactant | bis(pinacolato)diboron | 5.35 mmol, 1.36 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.32 mmol, 620 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.12 mmol, 99 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 588 mg, yield 59% | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C22H32BN3O4
